US20010027196A1
2-Amino-4-(2-phenylamino-ethylamino)-6-thiophen-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile and N-phenylethylenediamine in dioxane. ES-MS m/e (%): 337 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-thiophen-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1SC=CC1 | C10H8N4OS2
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-4-(2-phenylamino-ethylamino)-6-thiophen-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNC1=CC=CC=C1)C#N)C=1SC=CC1 | C17H16N6S
